US05236619
In a 2 liter-reaction vessel, 50.0 g (0.28M) of p-hexylaniline, 54.8 g (0.56M) of potassium thiocyanate and 400 ml of acetic acid were placed and cooled below 10° C. To the mixture, a solution of 45.0 g of bromine in 135 ml of acetic acid was added dropwise in 40 minutes below 10° C. under strong stirring, followed by reaction for 1.5 hours below 10° C. After the reaction, 500 ml of water was poured into the reaction mixture, followed by heating to dissolve the resultant precipitate. The resultant solution was filtered when hot. Ammonia water was added to the filtrate until the resultant solution became basic, followed by cooling with ice to precipitate a crystal. The crystal was recovered by filtration, followed by washing and drying to obtain a crude product. The crude product was recrystallized from a mixture solvent of n-hexane/benzene (1/1) to obtain 33.0 g of 2-amino-6-hexylbenzothiazole (Yield: 9.9 %).

reactant | p-hexylaniline | 0.28M, 50.0 g | C(CCCCC)C1=CC=C(N)C=C1 | C12H19N
reactant | potassium thiocyanate | 0.56M, 54.8 g | [S-]C#N.[K+]
reactant | bromine | 45.0 g | BrBr | Br2
reactant | water | 500 ml | O | H2O
solvent | acetic acid | 135 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 2-amino-6-hexylbenzothiazole | 33.0 g, Yield: 9.9 % | NC=1SC2=C(N1)C=CC(=C2)CCCCCC | C13H18N2S
